US07582629B2
2-Butyl-4-[(3-chloro-4-morpholin-4-ylphenyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide
A solution of 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.025 g, 0.083 mmol) and 3-chloro-4-morpholinoaniline (0.039 g, 0.183 mmol) in MeCN (1 ml) was heated in a microwave reactor at 130° C. for 90 mins. The product was purified by preparative HPLC (Kromasil C8, 0.1M NH4OAc/MeCN, gradient). The combined product fractions were evaporated and freeze-dried to give the title compound (0.004 mg, 9%). 1H NMR (400 MHz, CD3CN): δ 7.74 (bs, 1H), 7.29-7.24 (m, 1H), 7.20-7.15 (m, 2H), 7.12-7.08 (m, 2H), 6.80-6.75 (m, 3H), 3.76-3.71 (m, 6H), 2.85-2.81 (m, 4H), 1.85-1.76 (m, 2H), 1.52-1.42 (m, 2H), 1.00 (t, 3H); Mass Spectrum: M+H+ 476.

reactant | 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.083 mmol, 0.025 g | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 3-chloro-4-morpholinoaniline | 0.183 mmol, 0.039 g | ClC=1C=C(N)C=CC1N1CCOCC1 | C10H13ClN2O
solvent | MeCN | 1 ml | CC#N | C2H3N
product | 2-Butyl-4-[(3-chloro-4-morpholin-4-ylphenyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.004 mg, 9% | C(CCC)N1S(C(=C(C1=O)NC1=CC(=C(C=C1)N1CCOCC1)Cl)C1=CC=CC=C1)(=O)=O | C23H26ClN3O4S
